US04885027
(N-methyl-3-trifluoromethylbenzylsulfonamido)acetamide. Hydrate
In this example, 3.39 g of ethyl (N-methyl-3-trifluoromethylbenzylsulfonamido)acetate was ground to a powder and combined with about 50 ml of ammonium hydroxide at room temperature. The reaction mixture was heated to about 40° C. and maintained at this temperature for about three hours. The precipitate was collected, washed with water and triturated with ethyl ether to afford 1.4 g of white solid; m.p. 156° to 159° C.

reactant | ethyl (N-methyl-3-trifluoromethylbenzylsulfonamido)acetate | 3.39 g | CN(S(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F)CC(=O)OCC | C13H16F3NO4S
reactant | ammonium hydroxide | about 50 ml | [OH-].[NH4+]
product | (N-methyl-3-trifluoromethylbenzylsulfonamido)acetamide. Hydrate | 1.4 g | O.CN(S(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F)CC(=O)N | InChI=1S/C11H13F3N2O3S.H2O/c1-16(6-10(15)17)20(18,19)7-8-3-2-4-9(5-8)11(12,13)14;/h2-5H,6-7H2,1H3,(H2,15,17);1H2
